US09102614B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(1-(4,4-dimethylcyclohex-1-enyl)-3-methylnaphthalen-2-yl)acetate:
To a solution of (S)-ethyl 2-tert-butoxy-2-(1-chloro-3-methylnaphthalen-2-yl)acetate (74 mg, 0.22 mmol) and 2-(4,4-dimethylcyclohex-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (78 mg, 0.33 mmol) in tetrahydrofuran (2 mL) was added potassium phosphate (153 mg, 0.66 mmol) and (2-dicyclohexyl-phosphino-2′,6′-dimethoxy-1,1′-biphenyl)[2-(2-aminoethylphenyl)]palladium(II) chloride methyl-t-butyl ether adduct, (SPhos) palladium(II) phenethylamine chloride (15 mg, 0.022 mmol) and the reaction was degassed 10 minutes with argon. The reaction was heated to 110° C. for 1 hour in a microwave reactor. The crude reaction was absorbed onto silica and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give a clear white oil (36 mg). 1H-NMR: 400 MHz, (CDCl3) δ: 7.83-7.78 (m, 1H), 7.70 (d, J=7.6 Hz, 1H), 7.53 (s, 1H), 7.43-7.36 (m, 2H), 5.66-5.61 (m, 2H), 4.20-4.03 (m, 2H), 2.66-2.60 (m, 2H), 2.26-2.03 (m, 4H), 1.87-1.59 (m, 5H), 1.24-1.20 (m, 9H), 1.19-1.11 (m, 6H).

reactant | (S)-ethyl 2-tert-butoxy-2-(1-chloro-3-methylnaphthalen-2-yl)acetate | 0.22 mmol, 74 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)Cl | C19H23ClO3
reactant | 2-(4,4-dimethylcyclohex-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.33 mmol, 78 mg | CC1(CC=C(CC1)B1OC(C(O1)(C)C)(C)C)C | C14H25BO2
reactant | potassium phosphate | 0.66 mmol, 153 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium(II) phenethylamine chloride | 0.022 mmol, 15 mg | [Cl-].C(CC1=CC=CC=C1)N.[Pd+2].[Cl-]
product | (S)-ethyl 2-tert-butoxy-2-(1-(4,4-dimethylcyclohex-1-enyl)-3-methylnaphthalen-2-yl)acetate | 36 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)C1=CCC(CC1)(C)C | C27H36O3
